US06479487B1
2-Chloro-6-[3-(2-methoxyethoxy)propylamino]-9-cyclopentylpurine is prepared from 2,6-dichloro-9-cyclopentylpurine, 3-(2-methoxyethoxy)propylamine, and triethylamine essentially as described above in Example 1, Scheme A, step b.

reactant | 2,6-dichloro-9-cyclopentylpurine | ClC1=NC(=C2N=CN(C2=N1)C1CCCC1)Cl | C10H10Cl2N4
reactant | 3-(2-methoxyethoxy)propylamine | COCCOCCCN | C6H15NO2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-Chloro-6-[3-(2-methoxyethoxy)propylamino]-9-cyclopentylpurine | ClC1=NC(=C2N=CN(C2=N1)C1CCCC1)NCCCOCCOC | C16H24ClN5O2
